US07524852B2
Synthesis of ethyl 1-benzyl-4-oxopyrrolidine-3-carboxylate
Above-prepared ethyl 3-[N-benzyl-N-(ethoxycarbonylmethyl)amino]propionate (14.0 g, 0.0479 mol) was dissolved in toluene (100 mL), and the solution was mixed with potassium tert-butoxide (5.9 g, 0.0525 mol) gradually added under ice-cooling, followed by stirring under ice-cooling for two hours. The reaction mixture was mixed with diluted hydrochloric acid (about 1 mol/L, 100 mL) under ice-cooling, followed by shaking and separation, to yield an aqueous layer. Saturated aqueous sodium bicarbonate solution (300 mL) was added dropwise to the aqueous layer, and ethyl acetate (400 mL) was further added thereto, followed by shaking and separation. After drying the organic layer over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, to thereby yield ethyl 1-benzyl-4-oxopyrrolidine-3-carboxylate (9.23 g, in a yield of 78%).

reactant | ethyl 3-[N-benzyl-N-(ethoxycarbonylmethyl)amino]propionate | 0.0479 mol, 14.0 g | C(C1=CC=CC=C1)N(CC(=O)OCC)CCC(=O)OCC | C16H23NO4
reactant | potassium tert-butoxide | 0.0525 mol, 5.9 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | about 1 mol/L, 100 mL | Cl | ClH
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 1-benzyl-4-oxopyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1CC(C(C1)=O)C(=O)OCC | C14H17NO3
